US06573263B2
110 mg (0.22 mmol) of 7-(1-acetyl-4-phenylbutyl)-2-(3,4-dimethoxybenzyl)-5-methylimidazo[5,1-f][1,2,4]triazin-4(3H)-one are reacted analogously to Example 12 with 20 mg (0.53 mmol) of sodium borohydride to give 2-(3,4-dimethoxybenzyl)-7-[1-(1-hydroxyethyl)-4-phenylbutyl]-5-methylimidazo[5,1-f][1,2,4]triazin-4(3H)-one.

reactant | 7-(1-acetyl-4-phenylbutyl)-2-(3,4-dimethoxybenzyl)-5-methylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | 0.22 mmol, 110 mg | C(C)(=O)C(CCCC1=CC=CC=C1)C1=NC(=C2C(NC(=NN21)CC2=CC(=C(C=C2)OC)OC)=O)C | C27H30N4O4
reactant | sodium borohydride | 0.53 mmol, 20 mg | [BH4-].[Na+]
product | 2-(3,4-dimethoxybenzyl)-7-[1-(1-hydroxyethyl)-4-phenylbutyl]-5-methylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | COC=1C=C(CC2=NN3C(C(N2)=O)=C(N=C3C(CCCC3=CC=CC=C3)C(C)O)C)C=CC1OC | C27H32N4O4
